US07297698B2
2-Morpholino-6-nitroquinoxaline
Into 10 ml of THF was dissolved 1.16 g of 2-chloro-6-nitroquinoxaline, and then 20 ml of morpholine was added thereto, followed by heating under refluxing for 30 minutes. Then, the solvent was removed by evaporation. Water was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate aqueous solution and saturated saline. After the solvent was removed by evaporation, the residue was crystallized from diethyl ether to obtain 1.5 g of the title compound.

reactant | 2-chloro-6-nitroquinoxaline | 1.16 g | ClC1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C8H4ClN3O2
reactant | morpholine | 20 ml | N1CCOCC1 | C4H9NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Morpholino-6-nitroquinoxaline | 1.5 g | O1CCN(CC1)C1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C12H12N4O3
